US07888364B2
600 mg of methyl 2-amino-4-(methylsulfonyl)benzoate was added to a solution of 4 mL of H2O and 1 mL of concentrated sulfuric acid. The solution was cooled to 0° C. and a solution of 206 mg of sodium nitrite in 1 mL of H2O was added slowly. The reaction mixture was stirred for 2 h and then a solution of 782 mg of potassium iodide in 2 mL of H2O was added dropwise at 0° C. The reaction was allowed to warm to room temperature and stirred for 5 h. The mixture was extracted with ethyl acetate. The combined organic extracts were washed with saturated Na2S2O3, dried (MgSO4) and evaporated. Purified by silica gel chromatography (5-50% ethyl acetate/hexane) to afford methyl 2-iodo-4-(methylsulfonyl)benzoate. 160 mg of methyl 2-iodo-4-(methylsulfonyl)benzoate was hydrolyzed via Procedure M to give 2-iodo-4-(methylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-iodo-4-(methylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-iodo-4-(methylsulfonyl)benzamide. MS (Q1) 513.0 (M)+.

reactant | methyl 2-amino-4-(methylsulfonyl)benzoate | 600 mg | NC1=C(C(=O)OC)C=CC(=C1)S(=O)(=O)C | C9H11NO4S
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 206 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 782 mg | [I-].[K+]
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 4 mL | O | H2O
product | methyl 2-iodo-4-(methylsulfonyl)benzoate | IC1=C(C(=O)OC)C=CC(=C1)S(=O)(=O)C | C9H9IO4S
